US04727081
N-[2-Methyl-3-[3-(1-piperidinylmethyl)phenoxy]propyl]hydrazine carboxamide
2.2 g (8 mmol) of 2-methyl-3-[3-(1-piperidinylmethyl)phenoxy]-1-propanamine in 20 ml of ethanol are stirred together with 1.9 g (8 mmol) of diphenylcarbonate at room temperature for 12 hours. 4 g of hydrazine hydrate is then added to the solution and the reaction mixture is heated under reflux for one hour. Isolation of the product is carried out as described in Example 1.

reactant | 2-methyl-3-[3-(1-piperidinylmethyl)phenoxy]-1-propanamine | 8 mmol, 2.2 g | CC(CN)COC1=CC(=CC=C1)CN1CCCCC1 | C16H26N2O
reactant | diphenylcarbonate | 8 mmol, 1.9 g | C1(=CC=CC=C1)OC(OC1=CC=CC=C1)=O | C13H10O3
reactant | hydrazine hydrate | 4 g | O.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-[2-Methyl-3-[3-(1-piperidinylmethyl)phenoxy]propyl]hydrazine carboxamide | CC(CNC(=O)NN)COC1=CC(=CC=C1)CN1CCCCC1 | C17H28N4O2
